US06686376B2
N-((1S,3R)-3-{[(Phenylmethoxy)carbonylamino]methyl}cyclohexyl)(t-butoxy)carboxamide
To a solution of 2-{3-[(t-butoxy)carbonylamino]cyclohexyl}acetic acid (3.43 g, 13.35 mmol), Et3N (3.75 mL, 26.96 mmol) in toluene (86 mL) under N2 was added DPPA (5.8 mL, 26.96 mmol) and benzyl alcohol (4.28 mL, 41.38 mmol). The solution was heated to reflux overnight. The reaction was cooled to room temperature, diluted with EtOAc, washed (1.0N NaOH then brine), dried (MgSO4), filtered, and concentrated. Column chromatography (silica gel, hexanes/EtOAc gradient) gave the title compound (3.05 g, 63%). Mass Spectrum (ES+) (m/z) 263.1 [M−BOC].

reactant | 2-{3-[(t-butoxy)carbonylamino]cyclohexyl}acetic acid | 13.35 mmol, 3.43 g | C(C)(C)(C)OC(=O)NC1CC(CCC1)CC(=O)O | C13H23NO4
reactant | Et3N | 26.96 mmol, 3.75 mL | CCN(CC)CC | C6H15N
reactant | DPPA | 26.96 mmol, 5.8 mL | C=1C=CC(=CC1)P(=O)(C=2C=CC=CC2)N=[N+]=[N-] | C12H10N3OP
reactant | benzyl alcohol | 41.38 mmol, 4.28 mL | C(C1=CC=CC=C1)O | C7H8O
solvent | toluene | 86 mL | C1(=CC=CC=C1)C | C7H8
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | N-((1S,3R)-3-{[(Phenylmethoxy)carbonylamino]methyl}cyclohexyl)(t-butoxy)carboxamide | 3.05 g, 63% | C1(=CC=CC=C1)COC(=O)NC[C@H]1C[C@H](CCC1)NC(=O)OC(C)(C)C | C20H30N2O4
